US07723352B2
(1E)-11-(3-fluorophenyl)-9-methoxy-3,4-dihydro-2H-pyrido[1,2-b]isoquinoline-1,6-dione 1-oxime
To a solution of 11-(3-fluorophenyl)-9-methoxy-3,4-dihydro-2H-pyrido[1,2-b]isoquinoline-1,6-dione (125 mg) in 4 mL pyridine was added hydroxylamine hydrochloride (51 mg). The reaction was heated to reflux for 5 h, then cooled to room temp and partitioned between ether and water. The aqueous solution was extracted with ether (2×). The combined organic solutions were washed with 1 N HCl (1×), and 10% bicarb (1×), then dried (MgSO4) and concentrated. Flash chromatography (10-70% EtOAc/hexanes) gave the titled compound.

reactant | 11-(3-fluorophenyl)-9-methoxy-3,4-dihydro-2H-pyrido[1,2-b]isoquinoline-1,6-dione | 125 mg | FC=1C=C(C=CC1)C1=C2N(C(C=3C=CC(=CC13)OC)=O)CCCC2=O | C20H16FNO3
reactant | hydroxylamine hydrochloride | 51 mg | Cl.NO
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | (1E)-11-(3-fluorophenyl)-9-methoxy-3,4-dihydro-2H-pyrido[1,2-b]isoquinoline-1,6-dione 1-oxime | FC=1C=C(C=CC1)C1=C/2N(C(C=3C=CC(=CC13)OC)=O)CCC\C2=N/O | C20H17FN2O3
